US05658673
Degreased glass microscope slides were coated on one side with clear epoxy cement (two-component "do it yourself", commercially available epoxy cement), which was allowed to harden. The epoxy-coated slides were then immersed in a DALM-forming solution of 15 ml of luminol in DMSO (solution A), 15 ml of 3AT in water (solution B), and 3 ml of sodium nitrite in water (solution C), for seven days. The slides were removed from the DALM-forming solution, rinsed with deionized water, then activated by placing them in a solution of 8 ml of 0.3M sodium bicarbonate solution and 8 ml of 3% hydrogen peroxide for seven days. The slides were removed from the bicarbonate/peroxide solution, rinsed with deionized water and blotted dry.

reactant | DALM | C1=CC2=C(C(=C1)N)C(=O)NNC2=O.C1=CC(=C(C=C1C[C@@H](C(=O)O)N)N)O
solvent | DMSO | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | luminol | 15 ml | C1=CC2=C(C(=C1)N)C(=O)NNC2=O | C8H7N3O2
